US08076491B2
3-(1-((3,5-dimethylisoxazol-4-yl)methyl)-1H-pyrazol-4-yl)-1-((6-(hydroxymethyl)pyridin-2-yl)methyl)imidazolidine-2,4-dione
Prepared as in example 10-5 from 3-(1-((3,5-dimethylisoxazol-4-yl)methyl)-1H-pyrazol-4-yl)imidazolidine-2,4-dione and 6-bromomethyl-2-pyridinemethanol. Yield: 35%. MS M+H calculated 397.2; found 397.2. The title compound was shown to inhibit hT2R08 bitter receptor and had an IC50 of 0.72 μM.

reactant | 3-(1-((3,5-dimethylisoxazol-4-yl)methyl)-1H-pyrazol-4-yl)imidazolidine-2,4-dione | CC1=NOC(=C1CN1N=CC(=C1)N1C(NCC1=O)=O)C | C12H13N5O3
reactant | 6-bromomethyl-2-pyridinemethanol | BrCC1=CC=CC(=N1)CO | C7H8BrNO
product | 3-(1-((3,5-dimethylisoxazol-4-yl)methyl)-1H-pyrazol-4-yl)-1-((6-(hydroxymethyl)pyridin-2-yl)methyl)imidazolidine-2,4-dione | Yield: 35% | CC1=NOC(=C1CN1N=CC(=C1)N1C(N(CC1=O)CC1=NC(=CC=C1)CO)=O)C | C19H20N6O4
